US04404379
312 g of N-cyclohexyl-1,3-propanediamine are slowly added dropwise at 60° C. to a suspension of 66 g of paraformaldehyde in 200 ml of cyclohexane. The water of reaction is then removed by boiling under reflux on a water separator. Insoluble constituents are removed by filtration and the filtrate is subjected to fractional distillation. 248 g of N-cyclohexyl-hexahydropyrimidine boiling at from 87° to 91° C. at 0.3 mbar are obtained.

reactant | N-cyclohexyl-1,3-propanediamine | 312 g | C1(CCCCC1)NCCCN | C9H20N2
reactant | paraformaldehyde | 66 g | C=O | CH2O
reactant | water | O | H2O
solvent | cyclohexane | 200 ml | C1CCCCC1 | C6H12
product | N-cyclohexyl-hexahydropyrimidine | 248 g | C1(CCCCC1)N1CNCCC1 | C10H20N2
